US09371318B2
Preparation of 3-chloro-4-(2-hydroxyethoxy)-5-methoxybenzaldehyde
To a suspension of sodium hydride (60% dispersion in mineral oil, 0.24 g, 6.00 mmol) in DMF (8 mL) was added a solution of 5-chlorovanillin (0.746 g, 4.00 mmol) in DMF (2 mL). The reaction mixture was stirred at RT for 20 minutes and 2-bromoethanol (0.42 mL, 5.93 mmol) added. The reaction mixture was heated at 50° C. for 90 hours. The reaction mixture was diluted with ethyl acetate and washed with water, brine (×2), dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 0-50% ethyl acetate in iso-hexane to afford the title compound (0.413 g, 48%).

reactant | sodium hydride | 6.00 mmol, 0.24 g | [H-].[Na+]
reactant | 5-chlorovanillin | 4.00 mmol, 0.746 g | ClC=1C(=C(C=C(C=O)C1)OC)O | C8H7ClO3
reactant | 2-bromoethanol | 5.93 mmol, 0.42 mL | BrCCO | C2H5BrO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-4-(2-hydroxyethoxy)-5-methoxybenzaldehyde | 0.413 g, 48% | ClC=1C=C(C=O)C=C(C1OCCO)OC | C10H11ClO4
